US08957102B2
1,5-Dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid [3-fluoro-4-(pyrrolo[1,2-b]pyridazin-4-yloxy)-phenyl]-amide
To a solution of 3-fluoro-4-(pyrrolo[1,2-b]pyridazin-4-yloxy)-phenylamine (50 mg, 0.206 mmol) and 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (32 mg, 0.137 mmol) dissolved in dimethylformamide (3 mL), HATU (78 mg, 0.206 mmol) and triethylamine (0.05 mL, 0.343 mmol) were sequentially added and heated at 50° C. for 7 hours. The resulting mixture was concentrated and the resulting residue was extracted with dichloromethane and water. After phase separation, the organic layer was washed with sodium chloride aqueous solution, dried with magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (ethyl acetate:hexane=1:3) to give the target compound as a white solid (16 mg, 0.04 mmol, 25% yield).

reactant | 3-fluoro-4-(pyrrolo[1,2-b]pyridazin-4-yloxy)-phenylamine | 0.206 mmol, 50 mg | FC=1C=C(C=CC1OC=1C=2N(N=CC1)C=CC2)N | C13H10FN3O
reactant | 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 0.137 mmol, 32 mg | CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1 | C12H12N2O3
reactant | HATU | 0.206 mmol, 78 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.343 mmol, 0.05 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 1,5-Dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid [3-fluoro-4-(pyrrolo[1,2-b]pyridazin-4-yloxy)-phenyl]-amide | 0.04 mmol, 16 mg, 25% yield | FC=1C=C(C=CC1OC=1C=2N(N=CC1)C=CC2)NC(=O)C=2C(N(N(C2C)C)C2=CC=CC=C2)=O | C25H20FN5O3
